US08492582B2
To an acetic acid (20 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-(pyridin-4-yl)benzamido)-4-phenylbenzoate (0.77 g), 10% palladium-carbon (0.35 g) was added, followed by stirring under hydrogen pressure (5 kg/cm2) at 70 to 80° C. for 7 hours. The reaction mixture was cooled to room temperature, and acetic acid, methanol, and chloroform were added thereto. The insoluble substance was removed by filtration. The solvent was removed under reduced pressure, and then chloroform and a saturated aqueous solution of sodium bicarbonate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.36 g of tert-butyl 2-(2-hydroxy-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyridin-4-yl)benzamido)-4-phenylbenzoate | 0.77 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CC=NC=C1 | C36H32N2O4
reactant | methanol | CO | CH4O
catalyst | palladium-carbon | 0.35 g | [C].[Pd]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-(2-hydroxy-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.36 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C29H32N2O4
